US07910592B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-6-isopropenylpyridin-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one (20 mg, 0.033 mmol) in anhydrous EtOH (3 mL), was added a catalytic amount of 10% of palladium on carbon. The mixture was stirred under 1 atm of hydrogen for 2 h. The reaction mixture was filtered through Celite. The solvent was concentrated in vacuo. Flash chromatography of the residue (Si, hexanes/EtOAc) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-6-isopropylpyridin-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. LCMS calc.=613.2; found=613.3 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers): δ 7.88 (s, 1H); 7.75 (s, 2H); 7.45 (d, J=7.8 Hz, 1H); 7.17 (d, J=7.8 Hz, 1H); 7.04 (br, s, 0.5H); 6.98 (br, s, 0.5H); 6.70 (s, 0.5H); 6.68 (s, 0.5H); 5.72-5.56 (br, m, 1H); 4.95-4.76 (br, m, 1H); 4.41 (br, m, 0.5H); 4.23 (br, m, 0.5H); 4.18-3.89 (br, m, 1H); 3.77 (s, 3H); 3.25-3.19 (m, 1H); 3.16-3.08 (m, 1H); 1.37 (m, 6H); 1.28 (d, J=6.9 Hz, 6H); 0.73 (br, s, 1.5H); 0.62 (br, s, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-6-isopropenylpyridin-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.033 mmol, 20 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C1=C(C=C(C(=C1)C(C)C)F)OC)C(=C)C)C)(F)F | C31H29F7N2O3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-6-isopropylpyridin-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C1=C(C=C(C(=C1)C(C)C)F)OC)C(C)C)C)(F)F | C31H31F7N2O3
